2161-01-01 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   55 y/o male with ESLD (MELD 22), CKD, recent admission for
   encephalopathy presents with hypoglycemia, encephalopathic.
   24 Hour Events:
   - Not paralyzed
   - RUQ u/s
   - Noted to be bradypneic to [**11-16**]'s but started out baseline 13 times
   per minute. Tv's have been good though. 3am on PS 5/5 40%.
   - Making purposeful movements when off Propofol but not following
   commands. Continues on minimal Propofol at 20/hr.
   Allergies:
   Codeine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-1**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 66 (57 - 79) bpm
   BP: 95/62(70) {95/60(70) - 211/91(123)} mmHg
   RR: 20 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.4 kg (admission): 80.4 kg
             Total In:
                                                                    914 mL
                                                                    419 mL
   PO:
             TF:
   IVF:
                                                                    914 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    280 mL
   Urine:
                                                                    585 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                      329  --> positive 494 through LOS mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 728 (728 - 728) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.28/20/144/10/-14      <-- 7.26/34/173/16
   Ve: 9.4 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Sedated.
   Eyes / Conjunctiva: Icteric
   Cardiovascular: 2/6 systolic best at LUSB. RRR
   Respiratory / Chest: CTAB but bradypneic.
   Abdominal: Distended, Not tight, no grimacing to palpation
   Extremities: No BLE or BUE edema.
   Skin:  Not assessed, Slight yellowing. Tattoos on bilateral arms and
   chest
   Neurologic:
   Labs / Radiology
   82
   8.2
   147 mg/dL
   2.2
   14
   3.9 mEq/L
   31
   117 mEq/L
   139 mEq/L
   24.3
   5.1
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
   WBC
   6.7
   Hct
   27.7
   Plt
   103
   TCO2
   16
   10
   Glucose
   138
   Other labs: PT / PTT / INR:   18.9/ 39.9/1.7 , CK / CKMB /
   Troponin-T:124/5/0.02, ALT / AST:58/89, Alk Phos / T Bili:153/1.9,
   Lactic Acid:1.7 mmol/L, Ca++:8.9
   Fluid analysis / Other labs: tacro yesterday pending
   Stox negative, Utox negative
   UA negative
   Ascites WBC 78  Poly2, Lymph3, mono 0, Plasma 2, Mesoth 8, Macroph 85
   Tprot 0.4, Gluc 111, LDH 40, Amylase 23, Alb less than 1
   SAAG >1.1, AFTP 0.4 indicating cirrhosis
   [**12-26**] Ammonia 190
   During rounds, found out that [**3-10**] sets of BCx
s from OSH were positive
   for GPC
s in pairs and clusters.
   Imaging: [**1-1**] CXR this am appears better
   RUQ u/s WET read:
   1. No focal hepatic lesion.
   2. PV patent with hepatopetal flow. Hepatic v patent. Slightly
   turbulent flow in the main portal vein, likely secondary to surgical
   anastomy.
   [**12-31**] CXR
   1. Status post intubation, with the endotracheal tube terminating 5.1
   cm above the level of the carina.
   2. Nasogastric tube terminating within the stomach.
   3. Patchy opacity at the left base concerning for an underlying
   consolidation, which could be secondary to aspiration or pneumonia.
   Microbiology:
   [**12-31**] ascites fluid negative to date
   [**12-27**] UCx negative
   [**12-27**] BCx negative x2
   [**12-26**] ascites negative
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
   Assessment and Plan: 55 y/o male with ESLD (MELD 22), CKD, recent
   admission for encephalopathy presents with hypoglycemia,
   encephalopathic.
   # Altered Mental Status: Pt presented with hypoglycemia and then
   intubated due to mental status. Pt without clear infectious source
   although suspicious CXR yesterday with L base opacity concerning for
   aspiration or PNA, although pt without fevers or leukocytosis. UA was
   negative for infection. All other cultures continue to be negative.
   Given history, hepatic encephalopathy high on differential.
   - F/u repeat CXR today to evaluate L base
   - Watch blood sugars and allow for higher sugars in order to avoid
   hypoglycemia
   - F/u OSH blood cultures
 2/4 bottles with gram + cocci in pairs an
   chains from [**12-31**] (first 0/2 then 45 minutes later another set drawn
   and [**3-10**] from that set).
   - Get new BCx
s from here now
   - F/u ascites fluid Cx, has been negative x2 so far from [**12-31**] and
   [**12-26**]
   - Increase Lactulose and Rifaxamin
   - F/u with Hepatology and make sure they are aware of pt's admission
   - F/u final read of RUQ u/s
   - Cultures if spikes
   - Will start Vancomycin for positive Cx
s from OSH
   # Respiratory status: Pt is on minimal PS, however is fairly bradypneic
   to the [**11-16**]'s, and yet still has CO2 of 20 on his last gas. He was not
   intubated for hypoxia or respiratory distress and so once the
   underlying cause is appropriately addressed, it seems reasonable to be
   able to wean him fairly easily. He is on minimal sedation as well,
   which could be easily weaned, and he has already shown signs of waking
   up when off the Propofol.
   - RSBI this morning
   - SBT this morning
   - Do not plan to extubate as doesn
t appear alert enough to protect
   airway
   # Non AG metabolic acidosis with respiratory compensation. Unclear why
   his CO2 is currently so low and trending down, when he is also
   bradypneic. Unclear etiology but differential includes: renal failure
   with impaired generation of NH3, RTA, GI losses of HCO3, and dilutional
   effect of IVF's without HCO3. This appears to be a process started
   earlier during past admission [**12-28**], just a few days ago.
   - Have temporarily stopped pt's NS without HCO3 this am
   - If IVF's needed, will give NS with HCO3
   # Diabetes Mellitus: BS's have been between 59-226 since admission.
   Continues on insulin gtt. Would rather pt go slightly hyperglycemic
   than hypoglycemic, considering his presentation.
   # CKD: Creatinine at baseline, renally dose meds.
   # HCV Cirrhosis s/p transplant: MELD 22, on transplant list.  Liver
   team aware.  Continue tacrolimus (level today) and bactrim for
   prophylaxis.
   - F/u tacro level today, but would contact hepatology team to adjust if
   necessary.
   # HTN: Will follow, metoprolol per home regimen.
   # Adrenal Insufficency: Continue hydrocortisone per home regimen.
   # FEN: replete electrolytes, NPO for now, IVF's with HCO3 if restart,
   but none for now
   # Prophylaxis: PPI, pneumoboots
   # Access: peripherals x2   [**69**] and 20
   # Code:  Full code
   # Disposition: pending extubation.

2161-01-01 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with HCV, failing liver transplant.  Admitted with
   hypoglycemia, encephalopathy, intubated for agitation.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2160-12-31**] 01:32 PM
   Allergies:
   Codeine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Other medications:
   CTX
   tacrolimus
   cipro
   bactrim
   doxazosin
   lactulose
   FeSO4
   paxil
   protonix
   lopressor
   insulin
   chlorhex
   rifaxamin
   propofol
   hydrocort 25mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-1**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 69 (57 - 79) bpm
   BP: 87/55(63) {87/55(63) - 211/91(123)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.4 kg (admission): 80.4 kg
             Total In:
                                                                    914 mL
                                                                    567 mL
   PO:
             TF:
   IVF:
                                                                    914 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    360 mL
   Urine:
                                                                    585 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 739 (728 - 950) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 10
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.28/20/144/14/-14
   Ve: 7.9 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   82 K/uL
   147 mg/dL
   2.2 mg/dL
   14 mEq/L
   3.9 mEq/L
   31 mg/dL
   117 mEq/L
   139 mEq/L
   24.3 %
   5.1 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
                            [**2161-1-1**]  05:39 AM
   WBC
   5.1
   Hct
   27
   24.3
   Plt
   82
   Cr
   2.2
   TCO2
   16
   10
   Glucose
   138
   147
   Other labs: PT / PTT / INR:18.9/39.9/1.7, ALT / AST:58/89, Alk Phos / T
   Bili:153/1.9, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:180 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: ascites: WBC of 78
   Microbiology: GPCs in pairs and chains at OSH
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATIC ENCEPHALOPATHY
   Respiratory failure:  MS is limiting his extubation currently.
   Mental status:  most likely hepatic encephalopathy also with
   hypoglycemia.  Will increase lactulose.
   Bacteremia: Gram positive cocci in pairs and chains.    Start vanco.
   Non-AG Acidosis: likely due to renal insufficiency.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-12-31**] 01:55 PM
   20 Gauge - [**2160-12-31**] 01:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-01-02 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Confusion
   24 Hour Events:
 BLOOD CULTURED - At [**2161-1-1**] 10:25 AM
 BLOOD CULTURED - At [**2161-1-1**] 10:30 AM
   - hepatology recs: check tacro again in AM. Rest of plan as is.
   - tacrolimus level 4.6 today.  Left dose as is.
   - In PM, patient more clear but still no bowel movement.  Plan to do
   SBT in early AM and hopefully extubate tomorrow.
   - 2/4 bottles blood culture from [**12-31**] with gram + cocci in pairs and
   chains; [**Hospital6 **] [**Telephone/Fax (1) 10944**]. 2 bottles drawn at 930AM
   were negative, and 2 bottles drawn at 1015AM are both positive.
   Started on vancomycin 1gm Q24 and repeated blood cx.
   Allergies:
   Codeine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-1**] 10:59 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-1**] 11:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 53 (53 - 78) bpm
   BP: 119/66(79) {87/55(63) - 160/87(108)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.4 kg (admission): 80.4 kg
             Total In:
                                                                  1,609 mL
                                                                    415 mL
   PO:
             TF:
   IVF:
                                                                  1,269 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    210 mL
   Urine:
                                                                  1,070 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 734 (333 - 918) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Sedated.
   Eyes / Conjunctiva: Icteric
   Cardiovascular: 2/6 systolic best at LUSB. RRR
   Respiratory / Chest: CTAB but bradypneic.
   Abdominal: Distended, Not tight, no grimacing to palpation
   Extremities: No BLE or BUE edema.
   Skin:  Not assessed, Slight yellowing.
   Labs / Radiology
   76 K/uL
   8.6 g/dL
   102 mg/dL
   2.5 mg/dL
   14 mEq/L
   3.6 mEq/L
   33 mg/dL
   117 mEq/L
   141 mEq/L
   25.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
                            [**2161-1-1**]  05:39 AM
                            [**2161-1-2**]  01:59 AM
   WBC
   5.1
   7.3
   Hct
   27
   24.3
   25.4
   Plt
   82
   76
   Cr
   2.2
   2.5
   TCO2
   16
   10
   Glucose
   138
   147
   102
   Other labs: PT / PTT / INR:18.9/39.9/1.7, ALT / AST:58/89, Alk Phos / T
   Bili:153/1.9, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:180 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: [**1-1**] CXR: Bibasilar atelectasis have progressed, left more
   than right. ET tube cuff hyperinflated.
   [**1-2**] CXR: Increasing R-sided opacity.
   Microbiology: Blood and MRSA screen: pending, have been negative in
   recent past.
   Peritoneal fluid prelim negative.
   Assessment and Plan
 BACTEREMIA
 HYPERGLYCEMIA
 HEPATIC ENCEPHALOPATHY
   Assessment and Plan: 55 y/o male with ESLD (MELD 22), CKD, recent
   admission for encephalopathy presents with hypoglycemia,
   encephalopathic.
   # Altered Mental Status: Pt presented with hypoglycemia and then
   intubated due to mental status. Pt without clear infectious source
   although suspicious CXR yesterday with L base opacity concerning for
   aspiration or PNA, although pt without fevers or leukocytosis. UA was
   negative for infection. All other cultures continue to be negative.
   Given history, hepatic encephalopathy high on differential.
   - F/u repeat CXR today to evaluate L base
   - Watch blood sugars and allow for higher sugars in order to avoid
   hypoglycemia
   - F/u OSH blood cultures
 2/4 bottles with gram + cocci in pairs an
   chains from [**12-31**] (first 0/2 then 45 minutes later another set drawn
   and [**3-10**] from that set).
   - Get new BCx
s from here now
   - F/u ascites fluid Cx, has been negative x2 so far from [**12-31**] and
   [**12-26**]
   - Increase Lactulose and Rifaxamin
   - F/u with Hepatology and make sure they are aware of pt's admission
   - F/u final read of RUQ u/s
   - Cultures if spikes
   - Will start Vancomycin for positive Cx
s from OSH
   # Respiratory status: Pt is on minimal PS, however is fairly bradypneic
   to the [**11-16**]'s, and yet still has CO2 of 20 on his last gas. He was not
   intubated for hypoxia or respiratory distress and so once the
   underlying cause is appropriately addressed, it seems reasonable to be
   able to wean him fairly easily. He is on minimal sedation as well,
   which could be easily weaned, and he has already shown signs of waking
   up when off the Propofol.
   - RSBI this morning
   - SBT this morning
   - Do not plan to extubate as doesn
t appear alert enough to protect
   airway
   # Non AG metabolic acidosis with respiratory compensation. Unclear why
   his CO2 is currently so low and trending down, when he is also
   bradypneic. Unclear etiology but differential includes: renal failure
   with impaired generation of NH3, RTA, GI losses of HCO3, and dilutional
   effect of IVF's without HCO3. This appears to be a process started
   earlier during past admission [**12-28**], just a few days ago.
   - Have temporarily stopped pt's NS without HCO3 this am
   - If IVF's needed, will give NS with HCO3
   # Diabetes Mellitus: BS's have been between 59-226 since admission.
   Continues on insulin gtt. Would rather pt go slightly hyperglycemic
   than hypoglycemic, considering his presentation.
   # CKD: Creatinine at baseline, renally dose meds.
   # HCV Cirrhosis s/p transplant: MELD 22, on transplant list.  Liver
   team aware.  Continue tacrolimus (level today) and bactrim for
   prophylaxis.
   - F/u tacro level today, but would contact hepatology team to adjust if
   necessary.
   # HTN: Will follow, metoprolol per home regimen.
   # Adrenal Insufficency: Continue hydrocortisone per home regimen.
   # FEN: replete electrolytes, NPO for now, IVF's with HCO3 if restart,
   but none for now
   # Prophylaxis: PPI, pneumoboots
   # Access: peripherals x2   [**69**] and 20
   # Code:  Full code
   # Disposition: pending extubation.

2161-01-02 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 you man with failed liver transplant. admitted with encephalopathy,
   hypoglycemia.
   Has been agitated off sedation.  No bm yet.  This morning getting a
   SBT.
   24 Hour Events:
 BLOOD CULTURED - At [**2161-1-1**] 10:25 AM
 BLOOD CULTURED - At [**2161-1-1**] 10:30 AM
   Allergies:
   Codeine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-1**] 10:59 AM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-1**] 11:02 AM
   Other medications:
   tacro
   cipro
   lopressor
   Hydrocort
   rifaxamin
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-2**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 57 (53 - 78) bpm
   BP: 131/69(86) {95/55(66) - 150/82(96)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80.4 kg (admission): 80.4 kg
             Total In:
                                                                  1,609 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  1,269 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    280 mL
   Urine:
                                                                  1,070 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (333 - 918) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   76 K/uL
   102 mg/dL
   2.5 mg/dL
   14 mEq/L
   3.6 mEq/L
   33 mg/dL
   117 mEq/L
   141 mEq/L
   25.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
                            [**2161-1-1**]  05:39 AM
                            [**2161-1-2**]  01:59 AM
   WBC
   5.1
   7.3
   Hct
   27
   24.3
   25.4
   Plt
   82
   76
   Cr
   2.2
   2.5
   TCO2
   16
   10
   Glucose
   138
   147
   102
   Other labs: PT / PTT / INR:18.9/39.9/1.7, ALT / AST:58/89, Alk Phos / T
   Bili:153/1.9, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:180 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERGLYCEMIA
 HEPATIC ENCEPHALOPATHY
   Respiratory failure:  mechanically ready to extubation
   delirium/encephalopathy:  waking up, now having BMs.  Hopefully is
   ready for extubation today.
   DM:  will try and change over to long acting insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-2**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-01-03 09:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2161-1-2**] 10:33 AM
   - f/u BS after ISS change
   - low UOP and increasing Cr--> hepatorenal syndrome.  Urine lytes sent
   and patient given albumin as well as 250 NS boluses every 3 hours.
   - BS running around 65 and started tube feeds.
   Allergies:
   Codeine
   Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Shellfish Derived
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-2**] 11:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-2**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-3**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 66 (62 - 88) bpm
   BP: 140/73(88) {118/51(68) - 177/94(114)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.4 kg (admission): 80.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,008 mL
                                                                  1,158 mL
   PO:
             TF:
             243 mL
   IVF:
                                                                  1,378 mL
                                                                    795 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,481 mL
                                                                    910 mL
   Urine:
                                                                    681 mL
                                                                    310 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                     527  --> 1.7L positive through LOS mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///12/
   Physical Examination
   Awoken, delirious speaking nonsense about giving his mother the water.
   Not in distress or agitated though. Eyes with some icterus. Lungs
   fairly clear with upper airway sounds on expiration. RRR, prominent
   systolic murmur through precordium. Abd is distended but not tender to
   palpation. No BLE edema
   Labs / Radiology
   126 K/uL
   9.1 g/dL
   72 mg/dL
   2.9 mg/dL
   12 mEq/L
   3.1 mEq/L
   37 mg/dL
   120 mEq/L
   145 mEq/L
   28.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
                            [**2161-1-1**]  05:39 AM
                            [**2161-1-2**]  01:59 AM
                            [**2161-1-2**]  02:24 PM
                            [**2161-1-3**]  05:42 AM
   WBC
   5.1
   7.3
   10.1
   Hct
   27
   24.3
   25.4
   28.1
   Plt
   82
   76
   126
   Cr
   2.2
   2.5
   2.7
   2.9
   TCO2
   16
   10
   Glucose
   138
   147
   102
   166
   72
   Other labs: PT / PTT / INR:18.9/39.9/1.7   ON [**1-1**] , ALT / AST:58/89
   ON [**1-1**], Alk Phos / T Bili:153/1.9   ON [**1-1**], Lactic Acid:1.7 mmol/L,
   Albumin:2.9 g/dL, LDH:180 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.9
   mg/dL   ELEVATED
   Fluid analysis / Other labs: [**1-3**] Tacro level pending
   Imaging: [**1-2**] CXR
   IMPRESSION:
   1. Unchanged bibasilar atelectasis.
   2. The nasogastric tube terminates in the proximal stomach, recommended
   advancing 5 cm.
   Microbiology: [**1-2**] Ucx pending
   [**1-1**] BCx x2 pending
   [**12-31**] para fluid negative
   Assessment and Plan
 BACTEREMIA
 HYPERGLYCEMIA
 HEPATIC ENCEPHALOPATHY
   Assessment and Plan: 55 y/o male with ESLD (MELD 22), CKD, recent
   admission for encephalopathy presents with hypoglycemia,
   encephalopathic.
    # Altered Mental Status: Pt presented with hypoglycemia and then
   intubated due to mental status. Pt without clear infectious source.
   What we are seeing today is likely residual sedation from medication.
   UA was negative for infection. OSH 2/4 bottles positive for Strep
   alpha, meth resistant. All other cultures from this hospital continue
   to be negative. Given history, hepatic encephalopathy also high on
   differential.  He is now passing stool and has responded to lactulose
   in the past.
   - OSH blood cultures
 2/4 bottles with methicillin-resistant alpha
   strep.  We will touch base with ID about whether this can be considered
   a contaminant given patient
s stable clinical status, or if we should
   be concerned for true bacteremia.  We are currently treating with
   vancomycin which we will continue.  --> today is day 3
   - f/u blood cx from here.
   - Continue Lactulose and Rifaxamin titrated for [**4-9**] BMs daily.
   - Cultures if spikes
   # Respiratory status: Pt extubated and doing well on RA
   # Diabetes Mellitus: Pt currently on 30U q12 of NPH, BS's look good in
   the low 100's.
   # CKD: Creatinine at baseline, renally dose meds.
   # HCV Cirrhosis s/p transplant: MELD 22, on transplant list.  Liver
   team aware.  Continue tacrolimus (level today) and bactrim for
   prophylaxis.
   - F/u tacro level today, but would contact hepatology team to adjust if
   necessary.
   # HTN: Will follow, metoprolol per home regimen.
   # Adrenal Insufficency: Continue hydrocortisone per home regimen.
   # FEN: replete electrolytes, NPO for now, no IVF
s for now
   # Prophylaxis: PPI, pneumoboots
   # Access: peripherals x2   [**69**] and 20
   # Code:  Full code
   # Disposition: if stable post-extubation, likely to floor tomorrow.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2161-1-3**] 08:49 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-3**] 02:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-01-03 13:33:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, encephalopathy, hypoglycemia, acute
   respiratory failure, anemia, renal failure, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on tube feeds yesterday.
   Stable resp status off ventilator.
   Hemodynamically stable.
   Blood culture from outside hospital growing strep mitis.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2161-1-2**] 10:33 AM
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Rash;
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Shellfish Derived
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-2**] 11:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Bactrim, cipro, lactulose, iron, paxil, metoprolol, insulin,
   tacrolimus, hydorcortisone, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-3**] 01:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 64 (62 - 88) bpm
   BP: 164/87(107) {118/51(68) - 177/94(114)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.4 kg (admission): 80.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,008 mL
                                                                  1,778 mL
   PO:
             TF:
             382 mL
   IVF:
                                                                  1,378 mL
                                                                  1,066 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,481 mL
                                                                  2,100 mL
   Urine:
                                                                    681 mL
                                                                    500 mL
   NG:
   Stool:
   1,600 mL
   Drains:
   Balance:
                                                                    527 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Agitated. Not
   communicative.
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at left upper sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields)
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Oriented (to): Not oriented, Movement: Non
   -purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   126 K/uL
   72 mg/dL
   2.9 mg/dL
   12 mEq/L
   3.1 mEq/L
   37 mg/dL
   120 mEq/L
   145 mEq/L
   28.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:15 PM
                            [**2161-1-1**]  04:00 AM
                            [**2161-1-1**]  05:39 AM
                            [**2161-1-2**]  01:59 AM
                            [**2161-1-2**]  02:24 PM
                            [**2161-1-3**]  05:42 AM
   WBC
   5.1
   7.3
   10.1
   Hct
   27
   24.3
   25.4
   28.1
   Plt
   82
   76
   126
   Cr
   2.2
   2.5
   2.7
   2.9
   TCO2
   16
   10
   Glucose
   138
   147
   102
   166
   72
   Other labs: PT / PTT / INR:18.9/39.9/1.7, ALT / AST:58/89, Alk Phos / T
   Bili:153/1.9, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:180 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERGLYCEMIA
 HEPATIC ENCEPHALOPATHY
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   ACUTE AND CHRONIC RENAL FAIULRE
   =================
   Patient remains mildly agitated and non-communicative. Lactulose
   continues.
   Creat rising. Urine output low (although total I/O's are near equal).
   Will bolus with fluid now; concern about risk for hepatorenal syndrome.
   Hct stable.
   Blood sugars have been stable.
   Has metabolic acidosis with academia on last ABG. Mild anion gap. PaCO2
   down to 20. Would give bicarbonate to get pH into 7.30-7.35 range.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-1-3**] 02:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes